US07723362B2
To a mixture of 50 ml of dichloromethane and 2.76 g of free 4-methoxyphenyl-hydrazine there are added first 2.2 g of triethylamine and then, dropwise, at a temperature of from 0° to 5°, 2.65 g of pivaloyl chloride. The reaction mixture is stirred for 12 hours at room temperature and then discharged into water. The aqueous mixture is extracted with dichloromethane, the extract is concentrated and the residue is recrystallised from toluene/pentane, yielding N-(4-methoxyphenyl)-N′-pivaloyl-hydrazine which melts at from 126° to 127°.

reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
reactant | 4-methoxyphenyl-hydrazine | 2.76 g | COC1=CC=C(C=C1)NN | C7H10N2O
reactant | triethylamine | 2.2 g | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 2.65 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | water | O | H2O
product | N-(4-methoxyphenyl)-N′-pivaloyl-hydrazine | COC1=CC=C(C=C1)NNC(C(C)(C)C)=O | C12H18N2O2
